US07282512B2
Preparation of {1-[(2-pyrimidinyloxy)methyl]cyclobutyl}methanol
The title compound was prepared using the same experimental procedure as in example 25a from [1-(hydroxymethyl)cyclobutyl]methanol and 2-chloropyrimidine. 1H NMR (300 MHz, CDCl3) δ 8.50-8.47 (m, 2H), 6.95-6.89 (m, 1H), 4.48 (s, 2H), 3.63 (d, J=6 Hz, 2H), 3.02 (t, J=6 Hz, 1H), 2.01-1.78 (m, 6H). GC-MS m/z 195 (M+H).

reactant | [1-(hydroxymethyl)cyclobutyl]methanol | OCC1(CCC1)CO | C6H12O2
reactant | 2-chloropyrimidine | ClC1=NC=CC=N1 | C4H3ClN2
product | {1-[(2-pyrimidinyloxy)methyl]cyclobutyl}methanol | N1=C(N=CC=C1)OCC1(CCC1)CO | C10H14N2O2
